US06537670B1
Preparation of 2-hydroxy-4-(3′-hydroxypropoxy)-benzophenone
To a 250 mL 3-necked round-bottom flask equipped with a magnetic stirrer was charged 20 g (93.5 mmol) of 2,4-dihydroxybenzophenone, 8.8 g (93.5 mmol) of chloropropanol, 100 mg (0.6 mmol) of potassium iodide, 12.92 g (93.5 mmol) of potassium carbonate, and 100 mL of dimethyl sulfoxide. The flask was immersed in an oil bath and the mixture heated at a bath temperature of 125° C. for 14 hours. The mixture was poured into 1.4 L of water and extracted with four 500 mL portions of methylene chloride. The combined organic extracts were washed with five 1200 in L portions of water, followed by two 2 L portions of 0.025% aqueous NaOH, and another 1.2 L portion of water. The organic layer was dried (MgSO4), filtered through Celite, and concentrated, leaving 19.4 g of product as a yellow solid. 1H NMR (CDCl3): δ12.58 (s, 1H, ArOH); 7.60-7.35 (m, 6H, Ar—H); 6.45-6.30 (m, 2H, Ar—H); 4.10 (t, 2H, Ar—O—CH2—); 3.79 (t, 2H, H—O—CH2—); 1.99 (m, 2H, —CH2—CH2—CH2—).

reactant | 2,4-dihydroxybenzophenone | 93.5 mmol, 20 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)O | C13H10O3
reactant | chloropropanol | 93.5 mmol, 8.8 g | ClC(CC)O | C3H7ClO
reactant | potassium carbonate | 93.5 mmol, 12.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
catalyst | potassium iodide | 0.6 mmol, 100 mg | [I-].[K+]
solvent | water | 1.4 L | O | H2O
product | 2-hydroxy-4-(3′-hydroxypropoxy)-benzophenone | 19.4 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OCCCO | C16H16O4
